US07074800B1
Using an analogous procedure to that described in Example 237, 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (1.65 g, 4.89 mmol), (prepared as described for the starting material in Example 67), was reacted with 4-fluoro-5-hydroxy-2-methylindole (970 mg, 5.88 mmol), (prepared as described for the starting material in Example 237), to give 4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline (1.9 g, 83%).

reactant | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 4.89 mmol, 1.65 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
reactant | 4-fluoro-5-hydroxy-2-methylindole | 5.88 mmol, 970 mg | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
product | 4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 1.9 g, 83% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1)C | C26H29FN4O3
